US05691364
To sodium hydride (0.38 g, 9.5 mmol) in N,N-dimethylformamide (3 mL) was added 3-cyanophenol (1.1 g, 8.9 mmol) and 2,6-difluoropyridine (0.4 mL, 4.4 mmol). After heating in an oil bath at 100° C. for 15 hours the reaction was partitioned with ethyl acetate and water. The organic layer was separated, washed with water, dried (Na2SO4), and the solvent was removed in vacuo. The residue was chromatographed on silica gel (50 g) with methylene chloride/hexane (3/1) to give 3,3'-[2,6-pyridinediylbis(oxy)]bis(benzonitrile). Recrystallization from ethyl acetate/hexane gave pure 3,3'-[2,6-pyridinediylbis(oxy)]bis(benzonitrile); NMR (CDCl3) 7.79 (t,1), 7.45 (m,4), 7.32 (m,4), 6.72 (d,2) ppm.

reactant | sodium hydride | 9.5 mmol, 0.38 g | [H-].[Na+]
reactant | 3-cyanophenol | 8.9 mmol, 1.1 g | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | 2,6-difluoropyridine | 4.4 mmol, 0.4 mL | FC1=NC(=CC=C1)F | C5H3F2N
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 3,3'-[2,6-pyridinediylbis(oxy)]bis(benzonitrile) | N1=C(C=CC=C1OC=1C=C(C#N)C=CC1)OC=1C=C(C#N)C=CC1 | C19H11N3O2
